US04764519
(b) 5-Nitro-2-(2-cyanoethyl)-3-methylpyridine
3-(3-Methyl-5-nitropyrid-2-yl)-3,3-bis(carbethoxy)propionitrile (29.8 g) was dissolved in methanol (1120 ml), molar sodium hydroxide solution (355 ml) was added, the reaction was cooled from 28° C. to room temperature and stirred for 55 minutes. The pH was lowered to 4 by the addition of concentrated hydrochloric acid, the reaction was stirred for 2.75 hr., the pH was then raised to 7 and the methanol was distilled off. The aqueous phase was extracted with chloroform, extracts were dried, filtered and concentrated. The residue was crystallised from chloroform/petroleum ether 40°-60° C. The crude product was treated with charcoal in ethanol and recrystallised from ethanol to give the title compound 10.44 g, m.p. 73°-74° C.

reactant | 3-(3-Methyl-5-nitropyrid-2-yl)-3,3-bis(carbethoxy)propionitrile | 29.8 g | CC=1C(=NC=C(C1)[N+](=O)[O-])C(CC#N)(C(=O)OCC)C(=O)OCC | C15H17N3O6
reactant | sodium hydroxide | 355 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1120 ml | CO | CH4O
product | 5-Nitro-2-(2-cyanoethyl)-3-methylpyridine | 10.44 g | [N+](=O)([O-])C=1C=C(C(=NC1)CCC#N)C | C9H9N3O2
